US04652652
To a solution of 2-(2-amino-4-thiazolyl)malonic acid diethyl ester in N,N-dimethylformamide (10 parts) is added monochloroacetyl chloride (1.3 equivalents) under ice cooling. After stirring under ice cooling for 30 minutes and at room temperature for 1 hour, the reaction mixture is diluted with ethyl acetate and water, washed with water, dried, and concentrated in vacuum to give 2-(2-monochloroacetamido-4-thiazolyl)malonic acid diethyl ester. Yield: 99.6%.

reactant | 2-(2-amino-4-thiazolyl)malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)C=1N=C(SC1)N)=O | C10H14N2O4S
reactant | monochloroacetyl chloride | 1.3 equivalents | ClCC(=O)Cl | C2H2Cl2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(2-monochloroacetamido-4-thiazolyl)malonic acid diethyl ester | Yield: 99.6% | C(C)OC(C(C(=O)OCC)C=1N=C(SC1)NC(CCl)=O)=O | C12H15ClN2O5S
